US06740676B2
4-Benzyloxy-2-fluoro-benzonitrile (Compound 7)
Following General Procedure F and using 2-fluoro-4-hydroxy-benzonitrile (11.37 g, 83 mmol), acetone (100 mL), potassium carbonate (30 g, 165.8 mmol) followed by benzyl bromide (10.84 mL, 91 mmol) the title product (18 g, 96%) was obtained.

reactant | 2-fluoro-4-hydroxy-benzonitrile | 83 mmol, 11.37 g | FC1=C(C#N)C=CC(=C1)O | C7H4FNO
reactant | potassium carbonate | 165.8 mmol, 30 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 91 mmol, 10.84 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 4-Benzyloxy-2-fluoro-benzonitrile | 18 g, 96% | C(C1=CC=CC=C1)OC1=CC(=C(C#N)C=C1)F | C14H10FNO
